US06127541
2-Thiomorpholinobenzonitrile
According to a similar manner to that in Reference Example 12, the title compound was synthesized from 2-fluorobenzonitrile and thiomorpholine.

reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | 2-Thiomorpholinobenzonitrile | S1CCN(CC1)C1=C(C#N)C=CC=C1 | C11H12N2S
